US05866549
Step 614a: 2-(R)-(BOC-amino)-3-phenyl-1-propanol.
To a 5.2 g (23.8 mmol) sample of di-t-butyl dicarbonate in 20 mL of methylene chloride held at 0° C. was added (R)-2-amino-3-phenyl-1-propanol (3.0 g, 19.8 mmol, Aldrich), and the reaction mixture was stirred 1.5 hours at room temperature. The solvent was removed, and the residue was dried under high vacuum and taken directly to the next step.

reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-2-amino-3-phenyl-1-propanol | 19.8 mmol, 3.0 g | N[C@@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(R)-(BOC-amino)-3-phenyl-1-propanol | C(=O)(OC(C)(C)C)N[C@@H](CO)CC1=CC=CC=C1 | C14H21NO3
